US07160902B2
a) (4-Trifluoromethyl-phenylamino)-acetic acid
To a stirred solution of (4-trifluoromethyl-phenylamino)-acetic acid ethyl ester (0.37 g, 1.5 mmol) in a mixed solvent of methanol (10 mL), tetrahydrofuran (10 mL), and water (10 mL) was added lithium hydroxide monohydrate (0.25 g, 6 mmol) and the mixture was stirred at room temperature overnight. The organic solvent was removed under reduced pressure and the aqueous solution was acidified with solid citric acid to pH˜4, and extracted with ethyl acetate (4×40 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and concentrated to give 0.33 g of the crude title compound that was used direct for the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ: 12.68 (s, 1H), 7.38 (d, 2H), 6.66 (d, 2H), 3.87 (s, 2H).

reactant | (4-trifluoromethyl-phenylamino)-acetic acid ethyl ester | 1.5 mmol, 0.37 g | C(C)OC(CNC1=CC=C(C=C1)C(F)(F)F)=O | C11H12F3NO2
reactant | methanol | 10 mL | CO | CH4O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 6 mmol, 0.25 g | O.[OH-].[Li+]
solvent | water | 10 mL | O | H2O
product | (4-Trifluoromethyl-phenylamino)-acetic acid | 0.33 g | FC(C1=CC=C(C=C1)NCC(=O)O)(F)F | C9H8F3NO2
